US05081271
4-[3-(3,5-Bistrimethysilylphenyl)-3-oxo-1-propenyl]benzoic Acid
Under ice-cooling, to a solution of 114 mg (0.43 mmol) of 3',5'-bis(trimethylsilyl)acetophenone and 70 mg (0.43 mmol) of methyl 4-formylbenzoate in 3 ml of THF was added a solution of 40 mg (1.00 mmol) of NaOH in 2 ml of H2O with stirring, and the mixture was stirred in an atmosphere of prepurified argon overnight. The reaction mixture was further added to 39 mg of NaOH, stirred for 2 days, and then the solution was adjusted with 2N-HCl to pH≤7 and extracted with ethyl acetate. The extract was dried and evaporated. The residue was purified by column chromatography using methylene chloride-methanol (10:1) as an eluant to give 112 mg of the desired compound (yield 66%), which was recrystallized from a mixture of ethyl acetate and n-hexane to give 98 mg of pale yellow prisms, m.p.194°-195.5° C. (yield 57%).

reactant | 3',5'-bis(trimethylsilyl)acetophenone | 0.43 mmol, 114 mg | C[Si](C=1C=C(C=C(C1)[Si](C)(C)C)C(C)=O)(C)C | C14H24OSi2
reactant | methyl 4-formylbenzoate | 0.43 mmol, 70 mg | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | NaOH | 1.00 mmol, 40 mg | [OH-].[Na+]
reactant | NaOH | 39 mg | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | H2O | 2 ml | O | H2O
product | 4-[3-(3,5-Bistrimethysilylphenyl)-3-oxo-1-propenyl]benzoic Acid | 112 mg, yield 66% | C[Si](C=1C=C(C=C(C1)[Si](C)(C)C)C(C=CC1=CC=C(C(=O)O)C=C1)=O)(C)C | C22H28O3Si2
